US09340557B2
As shown in step 6-vii of Scheme 6, a mixture of 7-bromo-5-((tert-butyldimethylsilyl)oxy)quinoxaline (700 mg, 2.06 mmol), morpholine (270 mg, 270 μL, 3.09 mmol), Pd2(dba)3 (94.50 mg, 0.1032 mmol), (rac)-BINAP (129 mg, 0.206 mmol), cesium carbonate (2.02 g, 6.19 mmol) in toluene (7 mL) was flushed with nitrogen for 10 minutes. The mixture was then heated overnight at 100° C. After cooling, the reaction mixture was diluted with EtOAc, filtered through a layer of diatomaceous earth, concentrated under reduced pressure, and purified by medium pressure silica gel chromatography (0 to 30% EtOAc/hexanes gradient) to provide 7-morpholinoquinoxalin-5-ol. This compound (450 mg, 1.3 mmol) was dissolved in THF (20 mL) and tetra-n-butylammonium fluoride (539 mg, 2.06 mmol) was added. The reaction mixture was stirred for 0.5 hour, concentrated under reduced pressure, and purified by medium pressure silica gel chromatography (0 to 100% EtOAc/hexanes gradient) to provide 7-morpholinoquinoxalin-5-ol (compound 1019) as a yellow solid: 1H-NMR (300 MHz, CDCl3) δ 8.75 (d, J=2.0 Hz, 1H), 8.46 (d, J=2.0 Hz, 1H), 7.70 (d, J=41.8 Hz, 1H), 7.01 (d, J=2.6 Hz, 1H), 6.89 (d, J=2.5 Hz, 1H), 4.12-3.78 (m, 4H), 3.51-3.24 (m, 4H).

reactant | 7-bromo-5-((tert-butyldimethylsilyl)oxy)quinoxaline | 2.06 mmol, 700 mg | BrC1=CC(=C2N=CC=NC2=C1)O[Si](C)(C)C(C)(C)C | C14H19BrN2OSi
reactant | morpholine | 3.09 mmol, 270 μL, 270 mg | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 6.19 mmol, 2.02 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.1032 mmol, 94.50 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-morpholinoquinoxalin-5-ol | O1CCN(CC1)C=1C=C(C=2N=CC=NC2C1)O | C12H13N3O2
